US04710573
1-(4-Chlorobenzoyl)-6-fluoro-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride
A mixture of 2.0 g of 6-fluoro-3-(1-methyl-4-piperidinyl)-1H-indazole and 5 ml of 4-chlorobenzoyl chloride was heated at 100° C. in a steam bath for 2 hrs. After cooling, ether was added and the solid was collected. The solid was combined with a 2.5 g sample from another experiment and recrystallized twice from ethanol-ether to yield 4.7 g (56%, calculated on the combination of both experiments) of product, mp 258°-260° C.

reactant | 6-fluoro-3-(1-methyl-4-piperidinyl)-1H-indazole | 2.0 g | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)C | C13H16FN3
reactant | 4-chlorobenzoyl chloride | 5 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | ether | CCOCC | C4H10O
product | 1-(4-Chlorobenzoyl)-6-fluoro-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride | Cl.ClC1=CC=C(C(=O)N2N=C(C3=CC=C(C=C23)F)C2CCN(CC2)C)C=C1 | InChI=1S/C20H19ClFN3O.ClH/c1-24-10-8-13(9-11-24)19-17-7-6-16(22)12-18(17)25(23-19)20(26)14-2-4-15(21)5-3-14;/h2-7,12-13H,8-11H2,1H3;1H
